US09120749B2
{6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloro-7-fluoroquinolin-3-yl)(cyclopropyl)methanone (297 mg, 0.900 mmol) was reacted with trans-N1,N1-dimethylcyclohexane-1,4-diamine (290 mg, 1.35 mmol) to afford the desired product (212 mg, 54%) as an off-white solid: ESI MS m/z 435 [C21H25BrFN3O+H]+.

reactant | (6-bromo-4-chloro-7-fluoroquinolin-3-yl)(cyclopropyl)methanone | 0.900 mmol, 297 mg | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)Cl | C13H8BrClFNO
reactant | trans-N1,N1-dimethylcyclohexane-1,4-diamine | 1.35 mmol, 290 mg | CN([C@@H]1CC[C@H](CC1)N)C | C8H18N2
product | {6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone | 212 mg, 54% | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C21H25BrFN3O
